US06235739B1
24 ml of dried tetrahydrofuran solution of 2.34 g (18.81 mM) of methyl methylsulfinyl-methyl sulfide was cooled to 0° C. A hexane solution of n-butyl lithium (18.81 mM) was added dropwise to the solution and was stirred for around 30 minutes at the same temperature. The solution was cooled to −78° C., and solution of 5.00 g (15.47 mM) 3,4-dimethoxybenzylidenemalonic acid diethyl ester in 2 ml of dried tetrahydrofuran was added. The solution thus obtained was heated gradually to room temperature, poured to an aqueous ammonium chloride solution, and was extracted with diethyl ether. The organic extract was dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo to obtain 6.70 g crude product of brown oily 3-(3,4-dimethoxyphenyl)-2-ethoxycarbonyl-4-methylsulfinyl-4-methylthiobutyric ethyl ester. The crude product was dissolved in 25 ml of anhydrous ethanol, 3.09 g (20.88 mM) of ethyl orthoformate and 0.25 ml of sulfuric acid were added thereto, and the mixture was stirred for 3 days at room temperature. The solution was poured to an aqueous sodium hydrogencarbonate under ice cooling and was extracted with diethyl ether. The organic extract was dried, then the solvent was evaporated in vacuo to obtain a brown oily crude product. The crude product was purified by chromatography. The product was concentrated and dried in vacuo to obtain 5.08 g of yellow oily 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester (yield 79.5%).

reactant | methyl methylsulfinyl-methyl sulfide | 18.81 mM, 2.34 g | CS(=O)CSC | C3H8OS2
reactant | n-butyl lithium | 18.81 mM | C(CCC)[Li]
reactant | 3,4-dimethoxybenzylidenemalonic acid diethyl ester | 15.47 mM, 5.00 g | C(C)OC(C(C(=O)OCC)=CC1=CC(=C(C=C1)OC)OC)=O | C16H20O6
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl orthoformate | 20.88 mM, 3.09 g | C(OCC)([O-])[O-]
reactant | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester | 5.08 g, yield 79.5% | C(C)OC(C(C(C(OCC)OCC)C1=CC(=C(C=C1)OC)OC)C(=O)OCC)=O | C21H32O8
